US05288871
3-Methylbenzoic acid phenyl ester
A solution of 23.19 g (0.15 mol) of m-toluoyl chloride in 70 mL of methylene chloride was added dropwise to a solution containing 14.12 g (0.15 mol) of phenol and 16.7 g (0.165 mol) of triethylamine in 70 mL of methylene chloride at ice bath temperature. A precipitate formed upon addition. The reaction mixture was stirred overnight at room temperature and was then filtered. The filtrate was washed successively by water (100 mL) and then by brine (75 mL) The organic layer was removed and dried over magnesium sulfate, filtered and evaporated in a rotary evaporator. The clear liquid product amounted to 29.91 g.

reactant | m-toluoyl chloride | 0.15 mol, 23.19 g | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
reactant | phenol | 0.15 mol, 14.12 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 0.165 mol, 16.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 3-Methylbenzoic acid phenyl ester | C1(=CC=CC=C1)OC(C1=CC(=CC=C1)C)=O | C14H12O2
